US04097516
2-[2-(3-Carbomethoxypropyl)benzyl]-4-hydroxy-1,3-cyclopentane dione, XIIIa
A toluene solution of 30.5 g (0.1 mol) of 2-[2-(3-carbomethoxypropyl)benzyl]-1,3,4-cyclopentanetrione, XIIa, was thoroughly dried by azeotropic distillation. Removal of the toluene gave a red oil that was taken up in 200 ml of 2-propanol. Five grams of Pd/C was added and the compound hydrogenated at 0.25 psi for 3 days. The catalyst was filtered and the solvent evaporated to give the crude product. This was chromatographed on silicic acid and eluted with 4:1 benzene:ethyl acetate. The major fraction amounted to 20 g of the hydroxy dione XIIIa as a clear, light tan oil.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2-[2-(3-carbomethoxypropyl)benzyl]-1,3,4-cyclopentanetrione | 0.1 mol, 30.5 g | C(=O)(OC)CCCC1=C(CC2C(CC(C2=O)=O)=O)C=CC=C1 | C17H18O5
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
catalyst | Pd/C | Five grams | [Pd] | Pd
product | 2-[2-(3-Carbomethoxypropyl)benzyl]-4-hydroxy-1,3-cyclopentane dione | C(=O)(OC)CCCC1=C(CC2C(CC(C2=O)O)=O)C=CC=C1 | C17H20O5
